US03992400
In the manner given in Preparation 1, 2-amino-2'-chlorobenzophenone is refluxed with hydrazine hydrate in diethylene glycol to give 2-amino-2'-chlorobenzophenone hydrazone.

reactant | 2-amino-2'-chlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC=C1 | C13H10ClNO
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-amino-2'-chlorobenzophenone hydrazone | NC1=C(C(C2=C(C=CC=C2)Cl)=NN)C=CC=C1 | C13H12ClN3
